US05051508
1-(2-methylphenyl)4 -chloro-6-methylpyrrolo[3,2-c]quinoline (1.0 g, 3,26 mmol) was dissolved in 4-aminobutanol (3.0 g) and stirred for 6 hoursat 170°. Chromatography (silica gel, 2% methanolic ammonia in dichloromethane), conversion to the hydrochloride and recrystallisation from ethanol/ether gave 1-(2-methylphenyl)-4-(4-hydroxybutylamino)-6-methylpyrrolo[3,2-c]quinolinehydrochloride (0.8 g), m.p. 176°-178°.

reactant | 1-(2-methylphenyl)4 -chloro-6-methylpyrrolo[3,2-c]quinoline | 3,26 mmol, 1.0 g | CC1=C(C=CC=C1)N1C=CC=2C(=NC=3C(=CC=CC3C21)C)Cl | C19H15ClN2
reactant | 4-aminobutanol | 3.0 g | NCCCCO | C4H11NO
product | 1-(2-methylphenyl)-4-(4-hydroxybutylamino)-6-methylpyrrolo[3,2-c]quinolinehydrochloride | 0.8 g | Cl.CC1=C(C=CC=C1)N1C=CC=2C(=NC=3C(=CC=CC3C21)C)NCCCCO | InChI=1S/C23H25N3O.ClH/c1-16-8-3-4-11-20(16)26-14-12-19-22(26)18-10-7-9-17(2)21(18)25-23(19)24-13-5-6-15-27;/h3-4,7-12,14,27H,5-6,13,15H2,1-2H3,(H,24,25);1H
